US08648068B2
87.2 4-{4-Fluoro-2-[(S)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
Prepared analogously to example 1.2 from 4-{4-fluoro-2-[(S)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester Lithiumhydroxide was replaced by NaOH (2M).

reactant | 4-{4-fluoro-2-[(S)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester Lithiumhydroxide | [OH-].[Li+].COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2COCCC2)S1)C
reactant | NaOH | 2M | [OH-].[Na+]
product | 4-{4-Fluoro-2-[(S)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2COCCC2)S1)C | C20H20FN3O4S
